US07618978B2
N-[(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-2-(R)-piperidin-2-ylethyl]-acetamide
Dissolve (R)-2-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester (0.085 g, 0.21 mmol) in hydrogen chloride (4 M in 1,4-dioxane, 3 mL). Stir 1 h and concentrate to give the title compound as a foam 10 (0.077 g, 100%).

reactant | (R)-2-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.21 mmol, 0.085 g | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O | C21H30F2N2O4
solvent | hydrogen chloride | 4 M, 3 mL | Cl | ClH
product | N-[(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-2-(R)-piperidin-2-ylethyl]-acetamide | FC=1C=C(C[C@@H]([C@@H]([C@@H]2NCCCC2)O)NC(C)=O)C=C(C1)F | C16H22F2N2O2
